US05175157
2-[(N-(3-(2,6-Dimethyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(2,6-dimethylphenoxy)-propane analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy- 1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloro-3-(2,6-dimethylphenoxy)-propane | ClCCCOC1=C(C=CC=C1C)C | C11H15ClO
product | 2-[(N-(3-(2,6-Dimethyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.CC1=C(OCCCN2CC(CCC2)CN2C(C3=CC(=C(C=C3CC2)OC)OC)=O)C(=CC=C1)C | InChI=1S/C28H38N2O4.ClH/c1-20-8-5-9-21(2)27(20)34-15-7-13-29-12-6-10-22(18-29)19-30-14-11-23-16-25(32-3)26(33-4)17-24(23)28(30)31;/h5,8-9,16-17,22H,6-7,10-15,18-19H2,1-4H3;1H
